US07230017B2
Ethyl 3-[(3-tert.-butoxy-3-oxopropyl)amino]-3-oxopropanoate
10 g (55.05 mmol) tert.-butyl β-alaninate hydrochloride are dissolved in 50 ml tetrahydrofuran, and 11.14 g (110.1 mmol) triethylamine and 5.53 g (36.7 mmol) ethyl 3-chloro-3-oxopropanoate are added at 0° C. The reaction mixture is stirred at room temperature for 18 hours. The solvent is removed in vacuo and the product is isolated by column chromatography (silica, eluent dichloromethane/methanol 100:1→50:1).

reactant | tert.-butyl β-alaninate hydrochloride | 55.05 mmol, 10 g | Cl.NCCC(=O)OC(C)(C)C
reactant | triethylamine | 110.1 mmol, 11.14 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-chloro-3-oxopropanoate | 36.7 mmol, 5.53 g | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl 3-[(3-tert.-butoxy-3-oxopropyl)amino]-3-oxopropanoate | C(C)(C)(C)OC(CCNC(CC(=O)OCC)=O)=O | C12H21NO5
